US04666907
Synthesis of 3,4-dihydroxy-10H-phenothiazine-5,5-dioxide
To a suspension of 4-hydroxy-3H-phenothiazine-3-one-5,5-dioxide (0.8 g) in a mixture of water (20 ml) and ethyl acetate (20 ml) there was added sodium dithionite (2 g) and the resulting mixture was stirred at room temperature for 20 minutes. The insoluble solid was then filtered, washed with water and dried to afford the title compound, m.p. (dec.) 261° C.

reactant | 4-hydroxy-3H-phenothiazine-3-one-5,5-dioxide | 0.8 g | OC=1C(C=CC2=NC3=CC=CC=C3S(C12)(=O)=O)=O | C12H7NO4S
reactant | sodium dithionite | 2 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 20 ml | O | H2O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 3,4-dihydroxy-10H-phenothiazine-5,5-dioxide | OC=1C=CC=2NC3=CC=CC=C3S(C2C1O)(=O)=O | C12H9NO4S
